US06380230B1
A) Benzyl 1H-pyrrolo[3,2-c]pyridine-2-carboxylate
40 ml of 1.7M tert-butyllithium in pentane are added, at −40° C. under nitrogen, to 5 g of 4-(N-Bocamino)-3-methylpyridine. After stirring for 1 hour at −40° C., the lithiated derivative thus formed is added to 12.9 g of benzyl oxalate in 100 ml of THF at −40° C. The mixture is allowed to return to 0° C., it is left stirring for 2 hours, 25 ml of 6N HCl are then added and this mixture is heated at 50° C. for one and a half hours. The pH is brought to 9 by addition of 1N NaOH, the mixture is then extracted with EtOAc and the extracts are dried and evaporated. The residue is chromatographed on silica, eluting with DCM/MeOR (100/3; v/v) to give 2.7 g of the expected compound.

reactant | tert-butyllithium | 1.7M, 40 ml | C(C)(C)(C)[Li]
reactant | 4-(N-Bocamino)-3-methylpyridine | 5 g | C(=O)(OC(C)(C)C)NC1=C(C=NC=C1)C | C11H16N2O2
reactant | benzyl oxalate | 12.9 g | C(C(=O)[O-])(=O)OCC1=CC=CC=C1
reactant | HCl | 6N, 25 ml | Cl | ClH
reactant | NaOH | 1N | [OH-].[Na+]
solvent | pentane | CCCCC | C5H12
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | Benzyl 1H-pyrrolo[3,2-c]pyridine-2-carboxylate | 2.7 g | N1C(=CC=2C=NC=CC21)C(=O)OCC2=CC=CC=C2 | C15H12N2O2
